US09163008B2
To a suspension of (S)-6-((1-amino-1-oxopropan-2-yl)amino)-2-chloropyrimidine-4-carboxamide (0.244 g, 1.00 mmol) in dioxane (5.0 mL) was added 4,4,5,5-tetramethyl-2-(4-(4-(trifluoromethyl)phenoxy)phenyl)-1,3,2-dioxaborolane (0.403 g, 1.11 mmol), 2M aqueous Na2CO3 (1.0 mL, 2.0 mmol) and PdCl2(dppf) (0.044 g, 0.054 mmol). The reaction vessel was flushed with argon, sealed, and heated at 100° C. overnight. After cooling, the reaction mixture was evaporated in vacuo and the residue chromatographed over silica gel with 50-100% acetone in hexanes. The product fractions were evaporated in vacuo and the resulting solid triturated with 2 mL MeOH, filtered, and dried under vacuum at 42° C. to give (S)-6-((1-amino-1-oxopropan-2-yl)amino)-2-(4-(4-(trifluoromethyl)phenoxy)phenyl)pyrimidine-4-carboxamide as a cream-colored powder (0.283 g, 0.635 mmol, 64% yield). 1H NMR (400 MHz, DMSO-d6): 8.61 (2H, d, J=8.8 Hz), 8.31 (1H, s), 7.98 (1H, d, J=6.4 Hz), 7.80-7.73 (3H, m), 7.55 (1H, s), 7.25-7.16 (4H, m), 7.11 (1H, s), 7.01 (1H, s), 4.62-4.53 (1H, m), 1.37 (3H, d, J=7.0 Hz). LC/MS: m/z=446.1 [M+H]+.

reactant | (S)-6-((1-amino-1-oxopropan-2-yl)amino)-2-chloropyrimidine-4-carboxamide | 1.00 mmol, 0.244 g | NC([C@H](C)NC1=CC(=NC(=N1)Cl)C(=O)N)=O | C8H10ClN5O2
reactant | 4,4,5,5-tetramethyl-2-(4-(4-(trifluoromethyl)phenoxy)phenyl)-1,3,2-dioxaborolane | 1.11 mmol, 0.403 g | CC1(OB(OC1(C)C)C1=CC=C(C=C1)OC1=CC=C(C=C1)C(F)(F)F)C | C19H20BF3O3
reactant | Na2CO3 | 2.0 mmol, 2M, 1.0 mL | C(=O)([O-])[O-].[Na+].[Na+]
solvent | dioxane | 5.0 mL | O1CCOCC1 | C4H8O2
catalyst | PdCl2(dppf) | 0.054 mmol, 0.044 g | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | (S)-6-((1-amino-1-oxopropan-2-yl)amino)-2-(4-(4-(trifluoromethyl)phenoxy)phenyl)pyrimidine-4-carboxamide | 0.635 mmol, 0.283 g, 64% yield | NC([C@H](C)NC1=CC(=NC(=N1)C1=CC=C(C=C1)OC1=CC=C(C=C1)C(F)(F)F)C(=O)N)=O | C21H18F3N5O3
